US05166206
To a solution of 380 mg (0.947 mmol) 6-butyl-4-chloro-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine in 10 mL acetone were added 0.119 mL 57% HI (0.900 mmol) and 851 mg (5.68 mmol) NaI. The mixture was warmed to 40° C. for 2.5 hours. As the reaction proceeds, NaCl can be seen precipitating out of solution. The mixture was diluted with brine and saturated NaHCO3 solution. The mixture was extracted 3 times with ether. The combined organic material was dried over MgSO4 and decolorized with activated charcoal, was stripped of solvent in vacuo, then was medium pressure chromatographed on silica gel using 10% EtOAc/hexane to give 440 mg of 6-butyl-4-iodo-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine, 94% yield.

reactant | 6-butyl-4-chloro-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine | 0.947 mmol, 380 mg | C(CCC)C1=C(C(=NC(=N1)C)Cl)CC1=CC=C(C=C1)I | C16H18ClIN2
reactant | HI | 0.900 mmol, 0.119 mL | I | HI
reactant | NaI | 5.68 mmol, 851 mg | [Na+].[I-]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 6-butyl-4-iodo-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine | 440 mg, 94% yield | C(CCC)C1=C(C(=NC(=N1)C)I)CC1=CC=C(C=C1)I | C16H18I2N2
